US07700634B2
1-(Cyclohexyl)methyl-7-methoxy-3-(4-{[N-(2-methoxyethyl)-N-methylamino]methyl}-[1,3]-thiazol-2-yl)-1H-indole, hydrochloride salt
A mixture of 3-[4-(chloromethyl)thiazol-2-yl]-1-(cyclohexyl)methyl-7-methoxy-1H-indole (100 mg, 0.27 mmol), (2-methoxyethyl)methylamine (119 mg, 1.33 mmol), 1,4-dioxane (2 ml), and acetonitrile (1 ml) was subjected to microwave irradiation for 10 min at 160° C. The reaction mixture was concentrated in vacuo and the obtained reside was mixed with aqueous sodium hydroxide (1M; 50 ml) and extracted with dichloromethane (4×50 ml). The combined organic layers were washed with brine, dried over magnesium sulfate, and concentrated in vacuo. The obtained residue was purified by column chromatography eluting with ethyl acetate to give the free base of the title compound as an oil. Hydrochloride salt formation was achieved by the addition of hydrogen chloride (1M solution in diethyl ether; 3 ml) to a solution of the free base in diethyl ether (15 ml). The mixture was concentrated in vacuo to afford the title compound as a 1:1 hydrochloride salt (95.1 mg). 1H NMR (400 MHz, CD3OD) δ 1.00-1.30 (5H, m), 1.55-1.94 (6H, m), 3.00 (3H, s), 3.32-3.66 (5H, m), 3.80 (2H, t, J 5.0), 3.97 (3H, s), 4.29 (2H, d, J 7.2), 4.52 (2H, s), 6.81 (1H, d, J 8.0), 7.16 (1H, dd, J 8.0, 8.0), 7.62 (1H, s), 7.80 (1H, d, J 8.0), 7.85 (1H, s).

reactant | 3-[4-(chloromethyl)thiazol-2-yl]-1-(cyclohexyl)methyl-7-methoxy-1H-indole | 0.27 mmol, 100 mg | ClCC=1N=C(SC1)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1 | C20H23ClN2OS
reactant | (2-methoxyethyl)methylamine | 1.33 mmol, 119 mg | COCCNC | C4H11NO
reactant | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 1-(Cyclohexyl)methyl-7-methoxy-3-(4-{[N-(2-methoxyethyl)-N-methylamino]methyl}-[1,3]-thiazol-2-yl)-1H-indole, hydrochloride salt | Cl.C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C=1SC=C(N1)CN(C)CCOC | InChI=1S/C24H33N3O2S.ClH/c1-26(12-13-28-2)15-19-17-30-24(25-19)21-16-27(14-18-8-5-4-6-9-18)23-20(21)10-7-11-22(23)29-3;/h7,10-11,16-18H,4-6,8-9,12-15H2,1-3H3;1H
